US07053099B1
a) 2-Fluoro-6-(phenylamino)benzonitrile
Aniline (4.66 g, 50 mmol) was dissolved in dimethyl sulfoxide (20 mL) and stirred under argon at room temperature. Sodium hydride, dry, 95% (1.51 g, 60 mmol) was added in portions and a deep purple color developed while the mixture was stirred at room temperature for 1 hour. The mixture was cooled to 0° C. in an ice bath and 2,6-difluorobenzonitrile (7.15 g, 50 mmol) dissolved in dimethyl sulfoxide (5 mL) was added and the mixture stirred at room temperature for 1.5 hours. The reaction mixture was partitioned between ethyl acetate and water, and the organic phase was washed with water (5×), brine (1×) dried over anhydrous Na2SO4 filtered, and evaporated to give the crude product which was then chromatographed on silica gel eluted with 0–25% CH2Cl2 in hexane to give the title compound as a white amorphous solid. ES (+) MS m/e=213 (MH+).

reactant | Aniline | 50 mmol, 4.66 g | NC1=CC=CC=C1 | C6H7N
reactant | 2,6-difluorobenzonitrile | 50 mmol, 7.15 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
solvent | dimethyl sulfoxide | 20 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
product | 2-Fluoro-6-(phenylamino)benzonitrile | FC1=C(C#N)C(=CC=C1)NC1=CC=CC=C1 | C13H9FN2
